US09163008B2
To a suspension of the 6-(2,5-dihydro-1H-pyrrol-1-yl)-2-(4-(4-fluorophenoxy)phenyl)pyrimidine-4-carboxamide (0.333 g, 0.885 mmol) in DCM (25 mL) was added mCPBA (0.201 g, 0.897 mmol, 77% solid). After 2 h, more mCPBA was added (0.198 g, 0.883 mmol, 77% solid). After stirring overnight, more mCPBA was added (0.202 g, 0.901 mmol, 77% solid) and the reaction was heated to reflux. After 5 h, more mCPBA was added (0.200 g, 0.892 mmol, 77% solid). After 2 h, more mCPBA was added (0.202 g, 0.901 mmol, 77% solid) and refluxing was continued overnight. When cooled, the reaction mixture was diluted with 100 mL DCM, washed twice with 25 mL saturated aqueous NaHCO3 solution, and once with 25 mL brine. The organic layers were dried over MgSO4, filtered, and evaporated to a residue. The residue was chromatographed over silica gel with 25-75% acetone in hexanes. The product fractions were evaporated in vacuo and the resulting solid triturated with 1 mL acetone, filtered, rinsed once with 0.5 mL acetone and dried under vacuum at 40° C. to give 6-(6-oxa-3-azabicyclo[3.1.0]hexan-3-yl)-2-(4-(4-fluorophenoxy)phenyl)pyrimidine-4-carboxamide as an off-white powder (0.052 g, 0.13 mmol, 15% yield). LC/MS: m/z=393.2 [M+H]+.

reactant | 6-(2,5-dihydro-1H-pyrrol-1-yl)-2-(4-(4-fluorophenoxy)phenyl)pyrimidine-4-carboxamide | 0.885 mmol, 0.333 g | N1(CC=CC1)C1=CC(=NC(=N1)C1=CC=C(C=C1)OC1=CC=C(C=C1)F)C(=O)N | C21H17FN4O2
reactant | mCPBA | 0.897 mmol, 0.201 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 6-(6-oxa-3-azabicyclo[3.1.0]hexan-3-yl)-2-(4-(4-fluorophenoxy)phenyl)pyrimidine-4-carboxamide | 0.13 mmol, 0.052 g, 15% yield | C12CN(CC2O1)C1=CC(=NC(=N1)C1=CC=C(C=C1)OC1=CC=C(C=C1)F)C(=O)N | C21H17FN4O3
